US04018824
A mixture of 21.8 parts of m-aminophenol, 22 parts of 1-(tert.-butyl)-3-azetidinol and 0.7 part of potassium hydroxide was heated under nitrogen gas at 140° C. for 8 hours with agitation. The reaction mixture was cooled and treated in the same manner as in Example 39. Recrystallization from benzene gave 17.2 parts of 1-(3'-aminophenoxy)-3-(tert.-butylamino)-2-propanol in the form of colorless needles melting at 105° - 106° C. The yield was 42.3%. The results of infra-red spectrum analysis are as follows:

reactant | m-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
reactant | 1-(tert.-butyl)-3-azetidinol | C(C)(C)(C)N1CC(C1)O | C7H15NO
reactant | potassium hydroxide | [OH-].[K+]
product | 1-(3'-aminophenoxy)-3-(tert.-butylamino)-2-propanol | yield was 42.3% | NC=1C=C(OCC(CNC(C)(C)C)O)C=CC1 | C13H22N2O2
